US09340506B2
A mixture of 3-Nitro-1H-pyrazole (0.265 gm, 2.34 mmol), tert-butyl 6-chloropyridine-3-carboxylate (0.500 gm, 2.34 mmol) was dissolved in anhydrous DMF (10 mL). Cesium carbonate (1.90 gm, 5.86 mmol) was added and reaction mixture was heated at 100° C. for 6 h. The reaction mixture was cooled to room temperature and poured into ice water, a white precipitate formed was filtered and dried under vacuum to give tert-butyl 6-(3-nitropyrazol-1-yl)pyridine-3-carboxylate (0.505 gm).

reactant | 3-Nitro-1H-pyrazole | 2.34 mmol, 0.265 gm | [N+](=O)([O-])C1=NNC=C1 | C3H3N3O2
reactant | tert-butyl 6-chloropyridine-3-carboxylate | 2.34 mmol, 0.500 gm | ClC1=CC=C(C=N1)C(=O)OC(C)(C)C | C10H12ClNO2
reactant | Cesium carbonate | 5.86 mmol, 1.90 gm | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 6-(3-nitropyrazol-1-yl)pyridine-3-carboxylate | 0.505 gm | [N+](=O)([O-])C1=NN(C=C1)C1=CC=C(C=N1)C(=O)OC(C)(C)C | C13H14N4O4
